US04665087
A mixture of 20 g of 4-benzyloxycarbonylamino-1-butylamine, 21.04 g of ethyl α-(phenethyl)acrylate and 200 ml of ethanol was stirred at room temperature for 8 days and evaporated to dryness. The residue was dissolved in ethyl ether and the solution was extracted three times with 100 ml of 2N hydrochloric acid. The aqueous layer was basified with 2N sodium hydroxide and extracted three times with methylene chloride, dried over magnesium sulfate and evaporated to give the ethyl 2-(4-benzyloxycarbonylaminobutyl)aminomethyl-4-phenylbutyrate having signals in the NMR spectrum at δ=7.4, 7.25, and 5.1 ppm.

reactant | 4-benzyloxycarbonylamino-1-butylamine | 20 g | C(C1=CC=CC=C1)OC(=O)NCCCCN | C12H18N2O2
reactant | ethyl α-(phenethyl)acrylate | 21.04 g | C(CC1=CC=CC=C1)C(C(=O)OCC)=C | C13H16O2
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | ethyl 2-(4-benzyloxycarbonylaminobutyl)aminomethyl-4-phenylbutyrate | C(C1=CC=CC=C1)OC(=O)NCCCCNCC(C(=O)OCC)CCC1=CC=CC=C1 | C25H34N2O4
